US07795267B2
[2-(3,6-Dihydropyridin-1(2H)-yl)ethyl]tetrahydro-3-oxo-1,1-diphenyl-3H-oxazolo[3,4-a]pyrazine-7(1H)-carboxylate
Hexahydro-1,1-diphenyl-3H-oxazolo[3,4-a]pyrazin-3-one (0.15 g, 0.50 mmol) was dissolved in tetrahydrofuran (5 mL). Triethylamine (0.14 mL, 1.0 mmol) and 2-bromoethyl chlorocarbonate (0.10 g, 0.55 mmol) were added thereto, and the mixture was stirred at room temperature for 1 hour. Diisopropylamine (0.36 mL, 2.0 mmol), N,N-dimethylformamide (5 mL) and 1,2,3,6-tetrahydropyridine (0.23 mL, 2.5 mmol) were sequentially added thereto, and the mixture was stirred at room temperature for 24 hours. To the reaction solution was added ethyl acetate, and the resulting mixture was washed with a 0.5 M aqueous sodium hydrogen carbonate solution, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified with amino silica gel column chromatography (hexane:ethyl acetate=9:1 to ethyl acetate), and then crystallized from diisopropyl ether to obtain the title compound (0.13 g, yield 59%).

reactant | Hexahydro-1,1-diphenyl-3H-oxazolo[3,4-a]pyrazin-3-one | 0.50 mmol, 0.15 g | C1(=CC=CC=C1)C1(OC(N2C1CNCC2)=O)C2=CC=CC=C2 | C18H18N2O2
reactant | Triethylamine | 1.0 mmol, 0.14 mL | C(C)N(CC)CC | C6H15N
reactant | 2-bromoethyl chlorocarbonate | 0.55 mmol, 0.10 g | C(OCCBr)(=O)Cl | C3H4BrClO2
reactant | Diisopropylamine | 2.0 mmol, 0.36 mL | C(C)(C)NC(C)C | C6H15N
reactant | 1,2,3,6-tetrahydropyridine | 2.5 mmol, 0.23 mL | N1CCC=CC1 | C5H9N
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | [2-(3,6-Dihydropyridin-1(2H)-yl)ethyl]tetrahydro-3-oxo-1,1-diphenyl-3H-oxazolo[3,4-a]pyrazine-7(1H)-carboxylate | 0.13 g, yield 59% | N1(CCC=CC1)CCOC(=O)N1CC2N(CC1)C(OC2(C2=CC=CC=C2)C2=CC=CC=C2)=O | C26H29N3O4
